US07875645B2
To 20 ml ethylene diamine were added at 0° C. 3.20 g (10 mmol) 2-(2,2-dibromo-vinyl)-1,3-diethyl-benzene and the mixture stirred at ambient temperature for 16 hours. The reaction was quenched by addition of aqueous 2N ammonia, extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. The residue was dissolved in ethyl acetate and crystallization at −10° C. provided 2.85 g 2-(2,6-diethyl-benzyl)-4,5-dihydro-1H-imidazole as colourless solid: MS (ISP): 217.1 ((M+H)+.).

reactant | 2-(2,2-dibromo-vinyl)-1,3-diethyl-benzene | 10 mmol, 3.20 g | BrC(=CC1=C(C=CC=C1CC)CC)Br | C12H14Br2
reactant | ethylene diamine | 20 ml | C(CN)N | C2H8N2
product | 2-(2,6-diethyl-benzyl)-4,5-dihydro-1H-imidazole | 2.85 g | C(C)C1=C(CC=2NCCN2)C(=CC=C1)CC | C14H20N2
